US04367238
A mixture of 2-hydroxy-3-(2-chlorophenylthio)benzaldehyde (19.3 g) and dimethyl sulfate (18.4 g) was stirred at room temperature. To the mixture was added dropwise an aqueous solution (50 ml) of potassium hydroxide (12.5 g) at temperature below 60° C., and then the mixture was stirred for an hour. The reaction mixture was cooled to the ambient temperature and insoluble substance was filtered off. The filtrate was extracted with diethyl ether, and the extract was washed with water, dried over magnesium sulfate and then evaporated under reduced pressure to give oily 2-methoxy-3-(2-chlorophenylthio)benzaldehyde (9.2 g).

reactant | 2-hydroxy-3-(2-chlorophenylthio)benzaldehyde | 19.3 g | OC1=C(C=O)C=CC=C1SC1=C(C=CC=C1)Cl | C13H9ClO2S
reactant | dimethyl sulfate | 18.4 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | potassium hydroxide | 50 ml, 12.5 g | [OH-].[K+]
product | 2-methoxy-3-(2-chlorophenylthio)benzaldehyde | 9.2 g | COC1=C(C=O)C=CC=C1SC1=C(C=CC=C1)Cl | C14H11ClO2S
